US07595397B2
(4-Bromo-phenyl)-(3-phenyl-pyrrolidin-1-yl)-methanone
The above compound could be made in the following manner analogous to Example 60: 1 equivalent of p-Bromobenzoic acid, 1 equivalent 3-Phenylpyrrolidine, 1.1 equivalents of EDC, 1.1 equivalents of HOBt and 1 equivalent of Hunig's Base in DMF would be stirred at room temperature overnight. The solution would then be diluted with water and extracted with ethyl acetate. The organic layers would be combined and washed with water, aqueous saturated sodium bicarbonate solution, 1N HCl and brine. The organic layers would be dried with sodium sulfate, filtered and concentrated. Purification would be done with flash chromatography to afford product.

reactant | p-Bromobenzoic acid | 1 equivalent | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | 3-Phenylpyrrolidine | 1 equivalent | C1(=CC=CC=C1)C1CNCC1 | C10H13N
reactant | EDC | 1.1 equivalents
reactant | HOBt | 1.1 equivalents | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hunig's Base | 1 equivalent | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (4-Bromo-phenyl)-(3-phenyl-pyrrolidin-1-yl)-methanone | BrC1=CC=C(C=C1)C(=O)N1CC(CC1)C1=CC=CC=C1 | C17H16BrNO
